US04710507
N-[4-Bromo-2-methylphenyl]-acetoacetamide (18 g) was heated for 5 hours with stirring in 98% sulphuric acid (50 cm3) at 100°. The cooled mixture was then poured onto ice (200 g), the solid was filtered off and dried in vacuo at 100° for 2 hours to give the crude product (15.0 g). A small portion (1.5 g) of this material was recrystallised from ethyl acetate/methanol to afford 6-bromo-4,8-dimethyl-2-(1H)-quinolone, m.p. >300° (1.1 g).

reactant | N-[4-Bromo-2-methylphenyl]-acetoacetamide | 18 g | BrC1=CC(=C(C=C1)NC(CC(=O)C)=O)C | C11H12BrNO2
solvent | sulphuric acid | 50 cm3 | S(O)(O)(=O)=O | H2O4S
product | 6-bromo-4,8-dimethyl-2-(1H)-quinolone | BrC=1C=C2C(=CC(NC2=C(C1)C)=O)C | C11H10BrNO
